US04529730
1-Ethoxycarbonyl-4-benzyloxypiperidine
3,4 g (0.033 mol) of ethyl chloroformate are added dropwise to a stirred mixture of 6.83 g (0.03 mol) of 4-benzyloxypiperidine hydrochloride, 7.74 g (0.056 mol) of dry K2CO3, 26 ml of water and 26 ml of chloroform. After stirring for 1 hour, the organic phase is decanted after dilution with 54 ml of chloroform, and washed 3 times with 20 ml of water and dried (MgSO4). Evaporation of the solvent in vacuo gives a liquid, which is distilled in vacuo.

reactant | ethyl chloroformate | 0.033 mol, 3,4 g | ClC(=O)OCC | C3H5ClO2
reactant | 4-benzyloxypiperidine hydrochloride | 0.03 mol, 6.83 g | Cl.C(C1=CC=CC=C1)OC1CCNCC1
reactant | K2CO3 | 0.056 mol, 7.74 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 26 ml | O | H2O
solvent | chloroform | 26 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-Ethoxycarbonyl-4-benzyloxypiperidine | C(C)OC(=O)N1CCC(CC1)OCC1=CC=CC=C1 | C15H21NO3
